US06288082B1
7-Amino-2,3-dihydro-benzo[1.4]dioxine-6-carboxylic acid methyl ester
A mixture of 12.0 g (50.2 mmol) of 7-nitro-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid methyl ester, 11.2 g (201 mmol) of powdered Fe and 13.3 g (257 mmol) of NH4Cl in 175 ml of MeOH and 70 mL of H2O was refluxed for 5.5 h. An additional 11.2 g of Fe and 13.3 g of NH4Cl was added and the mixture was heated for 5.5 h more. Finally, 5.5 g of Fe and 6.5 g of NH4Cl was added and the mixture was heated for 4 h. The cooled reaction was filtered through Celite, the pad was washed well with MeOH and the filtrate and washings were combined. The solvent was removed and the residue was slurried in H2O and collected. The crude product was filtered through silica (CHCl3) to give 9.5 g of the title compound as tan crystals: mass spectrum (electrospray, m/e): M+H 209.9.

reactant | 7-nitro-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid methyl ester | 50.2 mmol, 12.0 g | COC(=O)C1=CC2=C(OCCO2)C=C1[N+](=O)[O-] | C10H9NO6
reactant | NH4Cl | 257 mmol, 13.3 g | [NH4+].[Cl-]
reactant | NH4Cl | 13.3 g | [NH4+].[Cl-]
reactant | NH4Cl | 6.5 g | [NH4+].[Cl-]
solvent | MeOH | 175 ml | CO | CH4O
solvent | H2O | 70 mL | O | H2O
catalyst | Fe | 201 mmol, 11.2 g | [Fe] | Fe
catalyst | Fe | 11.2 g | [Fe] | Fe
catalyst | Fe | 5.5 g | [Fe] | Fe
product | 7-Amino-2,3-dihydro-benzo[1.4]dioxine-6-carboxylic acid methyl ester | 9.5 g | COC(=O)C1=CC2=C(OCCO2)C=C1N | C10H11NO4
